US08604050B2
33.1 Methyl 6-fluoro-1-[(3-trifluoromethylphenyl)methyl]-1H-indole-2-carboxylate
This compound was prepared according to a process similar to that described in step 16.1, by reacting 475 mg (2.459 mmol) of methyl 6-fluoro-1H-indole-2-carboxylate with 0.67 mL (4.918 mmol) of 3-trifluoromethylphenylmethanol in the presence of 1.18 g (4.918 mmol) of cyanomethylenetributylphosphorane (CMBP). The crude reaction product is then purified by chromatography on a column of silica in a mixture of heptane and ethyl acetate, to give 706 mg of the expected product in the form of a white solid.

reactant | methyl 6-fluoro-1H-indole-2-carboxylate | 2.459 mmol, 475 mg | FC1=CC=C2C=C(NC2=C1)C(=O)OC | C10H8FNO2
reactant | 3-trifluoromethylphenylmethanol | 4.918 mmol, 0.67 mL | FC(C=1C=C(C=CC1)CO)(F)F | C8H7F3O
reactant | cyanomethylenetributylphosphorane | 4.918 mmol, 1.18 g | C(#N)C=P(CCCC)(CCCC)CCCC | C14H28NP
product | Methyl 6-fluoro-1-[(3-trifluoromethylphenyl)methyl]-1H-indole-2-carboxylate | 706 mg | FC1=CC=C2C=C(N(C2=C1)CC1=CC(=CC=C1)C(F)(F)F)C(=O)OC | C18H13F4NO2
